US08685975B2
To a solution of 2,2,2-trichloro-1-(4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)ethanol (2.0 g, 6.25 mmol) in anhydr 1,4-dioxane (12.5 mL) and anhydr MeOH (15 mL) was added a solution of NaOH (1.25 g, 31.3 mmol) in anhydr MeOH (15 mL). After stirring for 4 hrs at 55° C., the mixture was cooled to room temperature and concentrated in vacuo. The residue was neutralized with saturated aqueous NH4Cl, acidified carefully with 1 M HCl and extracted with EtOAc. The combined organics were dried over Na2SO4 and concentrated in vacuo. The residue was triturated with Et2O to give 2-(4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)-2-methoxyacetic acid as an off-white solid (1.2 g, 73% yield).

reactant | 2,2,2-trichloro-1-(4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)ethanol | 6.25 mmol, 2.0 g | ClC(C(O)C1=CC=C(C=C1)C=1OC(=NN1)CC)(Cl)Cl | C12H11Cl3N2O2
reactant | NaOH | 31.3 mmol, 1.25 g | [OH-].[Na+]
reactant | 1,4-dioxane | 12.5 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 15 mL | CO | CH4O
solvent | MeOH | 15 mL | CO | CH4O
product | 2-(4-(5-ethyl-1,3,4-oxadiazol-2-yl)phenyl)-2-methoxyacetic acid | 1.2 g, 73% yield | C(C)C1=NN=C(O1)C1=CC=C(C=C1)C(C(=O)O)OC | C13H14N2O4
